US06395733B1
(1H-indol-5-yl)-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-amine Hydrochloride
Following the procedure described in Example 1, the title compound was prepared from 4-chloro-7H-pyrrolo[2,3-d]pyrimidine and 5-aminoindole (7%). HRMS: Calcd. 250.1093, Found 250.1081; anal. RP18-HPLC RT: 2.58 min; HCl salt MP: 218-221° C.

reactant | 4-chloro-7H-pyrrolo[2,3-d]pyrimidine | ClC=1C2=C(N=CN1)NC=C2 | C6H4ClN3
reactant | 5-aminoindole | NC=1C=C2C=CNC2=CC1 | C8H8N2
reactant | HCl | Cl | ClH
product | (1H-indol-5-yl)-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-amine Hydrochloride | Cl.N1C=CC2=CC(=CC=C12)NC=1C2=C(N=CN1)NC=C2 | InChI=1S/C14H11N5.ClH/c1-2-12-9(3-5-15-12)7-10(1)19-14-11-4-6-16-13(11)17-8-18-14;/h1-8,15H,(H2,16,17,18,19);1H
